US05648347
To a solution of 2-bromo-3',4'-difluoropropiophenone (47.3 g, 0.19 mole) in acetronitrile (100 ml) was added a solution of R-2-amino-1-propanol (Aldrich Chemical Co., Milwaukee, Wis. 53233) (15 g, 0.20 mole) and 2,6-lutidine (23.6 g, 0.22 mole) in acetonitrile (50 ml). The reaction was worked up as in Example 1 to give 26.9 g of (2S,3S,5R)-2-(3,4-difluorophenyl)-3,5-dimethyl-2-morpholinol hydrobromide.

reactant | 2-bromo-3',4'-difluoropropiophenone | 0.19 mole, 47.3 g | BrC(C(=O)C1=CC(=C(C=C1)F)F)C | C9H7BrF2O
reactant | R-2-amino-1-propanol | 0.20 mole, 15 g | C[C@H](CO)N | C3H9NO
reactant | 2,6-lutidine | 0.22 mole, 23.6 g | N1=C(C=CC=C1C)C | C7H9N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | (2S,3S,5R)-2-(3,4-difluorophenyl)-3,5-dimethyl-2-morpholinol hydrobromide | 26.9 g | Br.FC=1C=C(C=CC1F)[C@]1([C@@H](N[C@@H](CO1)C)C)O | InChI=1S/C12H15F2NO2.BrH/c1-7-6-17-12(16,8(2)15-7)9-3-4-10(13)11(14)5-9;/h3-5,7-8,15-16H,6H2,1-2H3;1H/t7-,8+,12-;/m1./s1
